US07456200B2
0.5 N Lithium hydroxide (7.4 ml, 3.7 mmol) was added to a solution 3-fluoro-5-methyl-benzoic acid methyl ester (520 mg, 3.1 mmol) in tetrahydrofuran (7.4 ml). The reaction was stirred at 75° C. for 2 h and then the solvent was removed in vacuo. The residue was dissolved in a small amount of water and then acidified (pH about 2) by the addition of 10% HCl (aq.). Following extraction of the aqueous layer with ethyl acetate, the organic layer was then washed with water and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford 469 mg (98%) of 3-fluoro-5-methyl-benzoic acid as a white solid. 1H NMR (DMSO), d (ppm): 7.62 (s, 1H), 7.45 (d, 1H), 7.32 (d, 1H), 2.38 (s, 3H).

reactant | Lithium hydroxide | 3.7 mmol, 0.5 N, 7.4 ml | [OH-].[Li+]
reactant | 3-fluoro-5-methyl-benzoic acid methyl ester | 3.1 mmol, 520 mg | COC(C1=CC(=CC(=C1)C)F)=O | C9H9FO2
solvent | tetrahydrofuran | 7.4 ml | O1CCCC1 | C4H8O
product | 3-fluoro-5-methyl-benzoic acid | 469 mg, 98% | FC=1C=C(C(=O)O)C=C(C1)C | C8H7FO2
